US07034039B2
A solution of 2-(3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl)-1,3-thiazole-4-carboxylic acid (1.60 g, 3 mmol), diphenylphosphoryl azide (0.78 ml, 3.6 mmol) and triethylamine (0.50 ml, 3.6 mmol) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in toluene (20 ml) and refluxed for 1 h. To the resulting mixture was added 9-fluorenylmethanol (0.88 g, 4.5 mmol), and the mixture was stirred at 100° C. for 3 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 9H-fluoren-9-ylmethyl 2-(3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl)-1,3-thiazol-4-ylcarbamate (1.12 g, 51.4%) as an amorphous solid.

reactant | 2-(3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl)-1,3-thiazole-4-carboxylic acid | 3 mmol, 1.60 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC=C(N1)C(=O)O)=O)CC(C)C | C29H31N3O5S
reactant | diphenylphosphoryl azide | 3.6 mmol, 0.78 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 3.6 mmol, 0.50 ml | C(C)N(CC)CC | C6H15N
reactant | 9-fluorenylmethanol | 4.5 mmol, 0.88 g | C1=CC=CC=2C3=CC=CC=C3C(C12)CO | C14H12O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 9H-fluoren-9-ylmethyl 2-(3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl)-1,3-thiazol-4-ylcarbamate | 1.12 g, 51.4% | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC=C(N1)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)CC(C)C | C43H42N4O5S
